US07618978B2
2-Ethylpiperidine-1-carboxylic acid tert-butyl ester
Stir 2-ethylpiperidine (11.8 mL, 88.3 mmol) and di-tert-butyl-dicarbonate (23.1 g, 105.96 mmol) in saturated aqueous sodium bicarbonate (100 mL )and 1,4-dioxane (100 mL) at room temperature overnight. Extract with ethyl acetate; wash the combined organic layers with 5% aqueous potassium bisulfate, water, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 90:10 hexanes:ethyl acetate) to give the title compound (12 g, 64%).

reactant | 2-ethylpiperidine | 88.3 mmol, 11.8 mL | C(C)C1NCCCC1 | C7H15N
reactant | di-tert-butyl-dicarbonate | 105.96 mmol, 23.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Ethylpiperidine-1-carboxylic acid tert-butyl ester | 12 g, 64% | C(C)(C)(C)OC(=O)N1C(CCCC1)CC | C12H23NO2
